US08486940B2
5-(4-(2-morpholinoethoxy)phenyl)-1-(1H-benzo[d]imidazol-6-yl)imidazolidin-2-one
The compound was synthesized as ditrifluoroacetate salt starting from 5-aminobenzimidazole (0.585 g, 4.4 mmol), 4-(2-morpholinoethoxy)benzaldehyde (0.941 g, 4 mmol), TMSCN (0.5 mL, 4 mmol), PdC (10%, 0.02 g), TEA (1.34 mL, 9.6 mmol), di-(imidazol-1-yl)methanone (0.582 g, 3.6 mmol) as described in method 2. The product was purified by means of preparative HPLC.

reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 4-(2-morpholinoethoxy)benzaldehyde | 4 mmol, 0.941 g | O1CCN(CC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
reactant | TMSCN | 4 mmol, 0.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 3.6 mmol, 0.582 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 5-(4-(2-morpholinoethoxy)phenyl)-1-(1H-benzo[d]imidazol-6-yl)imidazolidin-2-one | O1CCN(CC1)CCOC1=CC=C(C=C1)C1CNC(N1C=1C=CC2=C(NC=N2)C1)=O | C22H25N5O3
